Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dyspnea on exertion x 1 week
 
Major Surgical or Invasive Procedure:
cardiac cath ___

 
History of Present Illness:
Ms. ___ is a ___ year old female with PMH of thalassemia trait
and pre-diabetes who presented to her PCP ___ 1 week of
increasing DOE and tachycardia.  

 Patient presented to her PCPs office and saw a nurse
___ on ___. There she complained of 1
week of shortness of breath with activity describes a chest
heaviness with pain (vs indigestion) when walking fast or
climbing stairs. On reinterview she mentions that she has always
got short of breath fast with minimal exercise which she
attributes to her thalassemia trait. However since ___ she
noticed getting short of breath in even climbing stairs and was
profoundly short of breath carrying bag of cat litter up 
basement
steps. CXR was obtained which was negative for acute infectious
process. D-dimer was elevated to 685 after pt left office. Pt 
was
instructed to present to the ER by her PCP for ___ CTA. 
 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - None  
 2. CARDIAC HISTORY  
 - None  
 3. OTHER PAST MEDICAL HISTORY  
 Thalassemia trait  
 Benign neoplasm of colon  
 History of cold urticaria  
 HOME MEDICATIONS:  
 Vitamin D2  
 
Social History:
___
Family History:
Father died at age ___ myocardial infarction. Strong maternal
history of type 2 diabetes (maternal grandmother, grandfather,
aunt).  Mother died of leukemia at age ___. 
 
Physical Exam:
PHYSICAL EXAMINATION:  
=======================  
 VS: PO 109 / 72 R Sitting 62 18 99 RA 
 GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
 HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
 NECK: Supple. JVP of 6 cm.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
 LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.  
 LABS AND MICROBIOLOGY: Reviewed in OMR.

DISCHARGE EXAM:
=================
VS: ___ 1128 Temp: 98.1 PO BP: 98/60 HR: 52 RR: 18 O2 sat:
97% 
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
NECK: Supple. 
CARDIAC: rrr, no m/r/g; JVP of 6 cm
LUNGS: CTAB no crackles/wheezes
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
LABS:
=======

___ 06:15PM BLOOD WBC-5.4 RBC-6.08* Hgb-11.5 Hct-41.0 
MCV-67* MCH-18.9* MCHC-28.0* RDW-16.2* RDWSD-35.5 Plt ___
___ 06:15PM BLOOD Neuts-62.6 ___ Monos-7.0 Eos-1.8 
Baso-0.6 Im ___ AbsNeut-3.41 AbsLymp-1.49 AbsMono-0.38 
AbsEos-0.10 AbsBaso-0.03
___ 06:15PM BLOOD Glucose-124* UreaN-13 Creat-0.6 Na-143 
K-4.0 Cl-105 HCO3-26 AnGap-12
___ 12:40AM BLOOD cTropnT-<0.01
___ 06:15PM BLOOD cTropnT-<0.01
___ 12:40AM BLOOD CRP-7.8*

IMAGING:
==========
Coronary Anatomy
Coronary Description
The left main, left anterior descending, circumflex and right 
coronary artery have no angiographically
significant coronary abnormalities.
Complications: There were no clinically significant 
complications.
Findings
• No angiographically apparent coronary artery disease.
• Mildly elevated LVEDP.
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
======================
[] CRP elevated this admission (lab drawn to determine risk 
score for statin therapy) - unclear reason but please follow up 
with appropriate workup.
[] Unclear etiology of dyspnea on exertion x 1 week, not 
believed to be related to cardiac ischemia based on clean 
cardiac cath. Please consider other etiologies if DOE continues.
[] CARDIOLOGY: LVEDP on cardiac cath 16, mildly elevated.
[] Not initiated on any medications (Statin, ASA), given ACC/AHA 
risk calculation.
[] CT chest with Mild diffuse bronchial wall thickening, 
consider treating symptomatically for acute or chronic 
bronchitis if persists, and obtaining PFTs. 
[]CT chest with partially imaged liver demonstrates scattered 
hypodensities, not fully characterized on this study, possibly 
representing cysts. 

BRIEF HOSPITAL COURSE:
===========================
___ year old female with PMH of thalassemia trait and 
pre-diabetes who presented to her PCP ___ 1 week of increasing 
DOE and tachycardia, with stress test concerning for inducible 
ischemia. Troponins negative x 2 and EKG with no ischemic 
changes, underwent coronary cath ___ which did not show any 
significant disease.

CORONARIES: No angiographically apparent coronary artery 
disease, Mildly elevated LVEDP 
PUMP: 69% based on nuclear perfusion study ___
RHYTHM: sinus

=============== 
ACTIVE ISSUES: 
=============== 

#DOE 
#Clean coronaries 
Patient presents with 1 week of progressive dyspnea on exertion 
with CTA ___ showing no evidence of pulmonary embolism or 
aortic dissection, pulmonary parenchyma notable for mild diffuse 
bronchial wall thickening. Nuclear stress showed probable 
inferior apical reversible defect, with clinical concern for 
unstable angina given this result. She remained chest pain free 
this hospitalization, with trop negative x 2 and EKG with no 
ischemic changes. Started on ASA, metop, atorvastatin, however 
given no significant disease on catheterization and low ACC/AHA 
___ year risk calculations (1.5%), no indication for these 
medications at this time. Pt will follow up with outpatient PCP 
if DOE continues for further workup.

#Elevated CRP
CRP found to be mildly elevated to 7.8 this admission (measured 
for cardiovascular disease risk score stratification). Will 
follow up as outpt.

================ 
CHRONIC ISSUES: 
================ 
# GERD: continued omeprazole daily.

# Cold urticaria. Knows symptoms and is able to avoid
significant flare ups per PCP ___. 

#HLD recent outpatient lipid panel with ASCVD risk 2.9%, will
add-on hscrp (___) as ___ risk score seems more
appropriate given family history and ethnicity 
- atorvastatin 40 now, consider increasing to 80

# liver cysts: On CT, partially imaged liver demonstrates
scattered hypodensities, not fully characterized on this study,
possibly representing cysts.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO 1X/WEEK (___) 
2. Omeprazole 20 mg PO DAILY 
3. Fluocinonide 0.05% Ointment 1 Appl TP BID 

 
Discharge Medications:
1.  Fluocinonide 0.05% Ointment 1 Appl TP BID  
2.  Omeprazole 20 mg PO DAILY  
3.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
============
dyspnea on exertion, unclear etiology

SECONDARY:
===========
pre-diabetes
elevated CRP

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had shortness of 
breath while walking and a stress test that showed an area of 
your hear might not be getting good blood flow.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You underwent a procedure called cardiac catheterization, 
which revealed that all of the blood vessels in your heart were 
working well and there were no blockages.
- Ultimately it is still not clear why you are having the 
shortness of breath with walking, but we felt it is safe to 
finish the evaluation outside of the hospital. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below.   
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___